US08084448B2
E. [4-(3-Benzyloxy-2-methanesulfinylphenoxy)-butyl]-carbamic Acid Tert-butyl Ester
To a solution of [4-(3-benzyloxy-2-methylsulfanylphenoxy)-butyl]-carbamic acid tert-butyl ester (600 mg, 1.44 mmol) in methylene chloride (15 mL) is added mCPBA (355 mg, 1.44 mmol) and the mixture is stirred at RT for 2 h. Water is added the organic phase is washed with saturated NaHCO3, water and brine then is dried over sodium sulfate. The solvent is removed under reduced pressure to give the title compound as an oil.

reactant | [4-(3-benzyloxy-2-methylsulfanylphenoxy)-butyl]-carbamic acid tert-butyl ester | 1.44 mmol, 600 mg | C(C)(C)(C)OC(NCCCCOC1=C(C(=CC=C1)OCC1=CC=CC=C1)SC)=O | C23H31NO4S
reactant | mCPBA | 1.44 mmol, 355 mg | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
reactant | Water | O | H2O
solvent | methylene chloride | 15 mL | C(Cl)Cl | CH2Cl2
product | [4-(3-Benzyloxy-2-methanesulfinylphenoxy)-butyl]-carbamic Acid Tert-butyl Ester | C(C)(C)(C)OC(NCCCCOC1=C(C(=CC=C1)OCC1=CC=CC=C1)S(=O)C)=O | C23H31NO5S
